US04203988
B. N-(2-Dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)urea
A solution of N-(2-dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)cyanamide (5.66 g., 0.026 mole) in 6 N hydrochloric acid (60 ml.) is allowed to sit at room temperature for 11/2 hour. The reaction solution was then cooled, made alkaline (pH about 11) with 50% sodium hydroxide solution, and extracted with ether. After washing with water and drying over anhydrous magnesium sulfate, the combined extracts are taken to dryness in vacuum. Recrystallization of the residue from hexane gives 3.90 g. of product urea, m.p. 88°-89° C.

reactant | N-(2-dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)cyanamide | 0.026 mole, 5.66 g | CN(CCN(C#N)C1=NC(=CC(=C1)C)C)C | C12H18N4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
solvent | hydrochloric acid | 6 N, 60 ml | Cl | ClH
product | N-(2-Dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)urea | CN(CCN(C(=O)N)C1=NC(=CC(=C1)C)C)C | C12H20N4O
